US05378714
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazol (1.5 g, 6.8 mmol) and propylene oxide; (2 g, 34.4 mmol) in 25 ml acetonitrile was heated to 50° C. in an autoclave for 3 days. The cooled reaction was concentrated in vacuo and purified by chromatography on silica gel 60 eluting with ethyl acetate:methanol (9:1, v/v). Concentration of the appropriate fraction afforded 1.3 g (68.4%) of 3-[1-(2-hydroxyprop-1-yl)-4-piperidinyl]-6-fluoro-1, 2-benzisoxazole. M.p. 45°-47° C. MS (70 eV): m/z 278 (M+, 18%), 233 (100), 190 (28), 109 (12), 96 (70), 82 (25), 68 (14), 55 (22).

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazol | 6.8 mmol, 1.5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-[1-(2-hydroxyprop-1-yl)-4-piperidinyl]-6-fluoro-1, 2-benzisoxazole | 1.3 g, 68.4% | OC(CN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)C | C15H19FN2O2
